US04870219
6.1 g of (1,2,3,4-tetrahydro-1,1,4,4-tetramethyl-6-naphthyl) ethyl ketone are dissolved in 25 ml of abs. ether and added dropwise at 0° to a benzylmagnesium chloride solution prepared from 0.6 g of magnesium and 4.3 g of benzyl chloride in 30 ml of abs. ether. After stirring at room temperature for 2 hours the reaction mixture is poured into a saturated ammonium chloride solution, extracted with ether, dried over sodium sulphate and evaporated. The thus-obtained oil is dissolved in 100 ml of toluene and, after the addition of 0.5 g of p-toluenesulphonic acid, boiled at reflux overnight. After cooling the mixture is treated with 10% sodium bicarbonate solution, extracted with ether, dried and evaporated. The residue is purified by filtration over a short column (silica gel, elution agent hexane) and recrystallized from methylene chloride/methanol. There are obtained 3 g of 6-(α-ethylstyryl)-1,2,3,5-tetrahydro-1,1,4,4-tetramethylnaphthalene in colourless crystals, melting point 65°.

reactant | (1,2,3,4-tetrahydro-1,1,4,4-tetramethyl-6-naphthyl) ethyl ketone | 6.1 g | C(C)C(=O)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C17H24O
reactant | benzylmagnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | magnesium | 0.6 g | [Mg] | Mg
reactant | benzyl chloride | 4.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 6-(α-ethylstyryl)-1,2,3,5-tetrahydro-1,1,4,4-tetramethylnaphthalene | 3 g | C(C)C(=CC1=CC=CC=C1)C=1CC2C(CCC(C2=CC1)(C)C)(C)C | C24H32
